US09212168B2
Preparation 6: [(S)-2-Methyl-1-((2S,4S)-4-methyl-2-{4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-propyl]carbamic acid methyl ester
To a solution of ((S)-1-{(2S,4S)-2-[4-(4-bromo-phenyl)-1H-imidazol-2-yl]-4-methyl-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester (183 mg, 0.39 mmol; Preparation 5) and 4,4,5,5,4′,4′,5′,5′-octamethyl-[2,2′]bi[[1,3,2]dioxaborolanyl] (120 mg, 0.47 mmol) in 1,4-dioxane (5 mL) was added potassium acetate (56 mg, 0.59 mmol). The resulting mixture was sparged with nitrogen, Pd(dppf)Cl2.CH2Cl2 (27 mg, 0.033 mmol) was added, and the reaction mixture was capped and heated at 100° C. overnight. The reaction was cooled to RT and partitioned between EtOAc (50 mL) and water (10 mL). The organic layer was washed with water (5 mL), brine (2 mL), dried over magnesium sulfate, filtered, and concentrated to give a dark-brown oil, which was purified by silica gel chromatography (24 g silica gel, 0-100% EtOAc/hexanes). Fractions with desired product were combined and dried to give the title compound (94 mg, 47% yield) as a white foam. (m/z): [M+H]+ calcd for C27H39BN4O5 511.30. found 511.7.

reactant | ((S)-1-{(2S,4S)-2-[4-(4-bromo-phenyl)-1H-imidazol-2-yl]-4-methyl-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 0.39 mmol, 183 mg | COC(N[C@@H](C(C)C)C(=O)N1[C@@H](C[C@@H](C1)C)C=1NC=C(N1)C1=CC=C(C=C1)Br)=O | C21H27BrN4O3
reactant | 4,4,5,5,4′,4′,5′,5′-octamethyl-[2,2′]bi[[1,3,2]dioxaborolanyl] | 0.47 mmol, 120 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 0.59 mmol, 56 mg | C(C)(=O)[O-].[K+]
reactant | CH2Cl2 | 0.033 mmol, 27 mg | C(Cl)Cl | CH2Cl2
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | [(S)-2-Methyl-1-((2S,4S)-4-methyl-2-{4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-propyl]carbamic acid methyl ester | 94 mg, 47% yield | COC(N[C@@H](C(C)C)C(=O)N1[C@@H](C[C@@H](C1)C)C=1NC=C(N1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C27H39BN4O5
